US08835420B2
Scheme B shows a general method for preparing substituted 4-azaindoles (compounds A1 and A3) depicted in Scheme A. The method begins with the installation of an amine protecting group (G) on starting material B1, in which for example, 6-bromo-1H-pyrrolo[3,2-b]pyridine is reacted with TsCl in sodium hydride and DMF to give 6-bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine. Treatment of the resulting protected intermediate B2 with an oxidizing agent (e.g., mCPBA) gives an N-oxide intermediate B3, which undergoes cyanation via, for example, reaction with trimethylsilyl cyanide in the presence of base (e.g., tertiary amine such as Et3N) and DMF. The resulting intermediate B4 is deprotected (e.g., Ts is removed via contact with aq NaOH) and is optionally N-alkylated through reaction with an alkyl halide B6 (e.g., X2 is I) under basic conditions (e.g., NaH in DMF). As in Scheme A, reaction of the resulting bromide B7 with a boronic acid or boronate, stannane, or amine (A4) under Suzuki, Stille, or Buchwald conditions, respectively, gives an R1-substituted 4-azaindole intermediate B8. Treatment of bromide B7 or intermediate B8 with a reducing agent (e.g., borane-THF) or reaction with an alkyl-Grignard or alkyl-lithium reagent followed by reduction with sodium borohydride gives, respectively, an amine intermediate B9 or desired compound A1. As in Scheme A, reaction of the amine intermediate B9 with a 6-halopyrimidine derivative A2 gives desired compound A3.

reactant | 6-bromo-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2 | C7H5BrN2
reactant | TsCl | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C14H11BrN2O2S
